US04973600
105.2 g of dichloromethoxymethane are added to a solution of 122.6 g of 1,2-dichloro-3,4-dimethoxybenzene in methylene chloride, and titanium tetrabromide is added dropwise to the mixture at -50° to -60° C. The mixture is stirred at room temperature for 20 hours. The reaction mixture is poured into water and the organic layer is separated. The aqueous layer is extracted with chloroform, and the extract and the above-obtained organic layer are combined. The mixture is washed with water, dried and evaporated to remove solvent. The residue is washed with n-hexane to give 106 g of 2,3-dichloro-4,5-dimethoxybenzaldehyde.

reactant | dichloromethoxymethane | 105.2 g | ClC(OC)Cl | C2H4Cl2O
reactant | 1,2-dichloro-3,4-dimethoxybenzene | 122.6 g | ClC1=C(C(=C(C=C1)OC)OC)Cl | C8H8Cl2O2
reactant | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | titanium tetrabromide | [Ti](Br)(Br)(Br)Br
product | 2,3-dichloro-4,5-dimethoxybenzaldehyde | 106 g | ClC1=C(C=O)C=C(C(=C1Cl)OC)OC | C9H8Cl2O3
